US05814627
a) tert-Butyl nitrobutyrate
537 ml (3.7 mol) of tert-butyl acrylate were added dropwise, at a bath temperature of 70° C., to an initially introduced solution of 2.0 l of nitromethane and 7 ml of 1,8-diazabicyclo[5.4.0]undec-7-ene (DBU), with the pH, which could possibly have declined due to traces of acrylic acid, being maintained constant by the addition of appropriate quantities of DBU. After the exothermic reaction had subsided (rise of temperature to 90° C.), the mixture was allowed to cool for 60 min and then washed several times with dilute aqueous hydrochloric acid and water, dried and concentrated under reduced pressure, with 660 g of a reddish-brown oil remaining which was further purified by distillation (bp5 : 90° C.).

reactant | tert-butyl acrylate | 3.7 mol, 537 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | 1,8-diazabicyclo[5.4.0]undec-7-ene | 7 ml | N12CCCCCC2=NCCC1 | C9H16N2
reactant | acrylic acid | C(C=C)(=O)O | C3H4O2
reactant | nitromethane | 2.0 l | [N+](=O)([O-])C | CH3NO2
product | tert-Butyl nitrobutyrate | [N+](=O)([O-])C(C(=O)OC(C)(C)C)CC | C8H15NO4
